US08168666B2
Preparation of 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyl 4-bromobutyl ether
Potassium carbonate (132.4 mg, 0.96 mmol) was added to a mixed solution of 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenol (221.1 mg, 0.64 mmol) and 1,4-dibromobutane (1.38 g, 6.39 mmol) in N,N-dimethylformamide (20 mL), followed by stirring overnight. Water was added to the reaction solution, followed by extraction with ethyl acetate. Then, the organic layer was washed with saturated saline, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel preparative thin-layer chromatography (hexane:ethyl acetate=10:1) to obtain 219.5 mg of the title compound (yield: 71%) as a colorless oil.

reactant | Potassium carbonate | 0.96 mmol, 132.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenol | 0.64 mmol, 221.1 mg | FC(C(C(F)(F)F)(OCOC)C1=CC(=C(C=C1)O)CCC)(F)F | C14H16F6O3
reactant | 1,4-dibromobutane | 6.39 mmol, 1.38 g | BrCCCCBr | C4H8Br2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyl 4-bromobutyl ether | 219.5 mg, yield: 71% | BrCCCCOC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)OCOC)CCC | C18H23BrF6O3
